US09421205B2
(e) Methyl 2-(2-((triethylsilyl)ethynyl)pyridin-3-yl)acetate (I119)
A solution of triethylsilyl acetylene (0.579 mL, 3.23 mmol) in degassed DMF (3 mL) and triethylamine (0.901 mL, 6.47 mmol) were added to a mixture of methyl 2-(2-chloropyridin-3-yl)acetate (I118) (0.200 g, 1.08 mmol), Pd(PPh3)2Cl2 (75.6 mg, 0.108 mmol), Cu(I)I (30.8 mg, 0.162 mmol) and triphenylphosphine (42.4 mg, 0.162 mmol) in degassed DMF (4 mL) and the resulting mixture was heated at 90° C. for 20 hours. The cooled mixture was diluted with EtOAc and passed through a plug of celite, washing with ethyl acetate (100 mL). Water (75 mL) was added to the filtrate and the layers separated. The aqueous layer was extracted with EtOAc (2×75 mL). The combined organic extracts were washed with brine (100 mL) and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a dark brown residue. The residue was purified by column chromatography on silica gel (0-50% EtOAc in cyclohexane) to yield the title compound (I119) (0.353 g) as a brown oil which was used without further purification; 1H NMR (400 MHz, CDCl3) δ 8.50 (dd, J=4.8, 1.6 Hz, 1H), 7.62 (dd, J=7.8, 1.6 Hz, 1H), 7.22 (dd, J=7.8, 4.8 Hz, 1H), 3.86 (s, 2H), 3.70 (s, 3H), 1.05 (t, J=7.9 Hz, 9H), 0.75-0.67 (m, 6H). LCMS Method C: rt 6.55 min; m/z 290 [M+H]+.

reactant | triethylsilyl acetylene | 3.23 mmol, 0.579 mL | C(C)[Si](CC)(CC)C#C | C8H16Si
reactant | triethylamine | 6.47 mmol, 0.901 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 2-(2-chloropyridin-3-yl)acetate | 1.08 mmol, 0.200 g | ClC1=NC=CC=C1CC(=O)OC | C8H8ClNO2
reactant | triphenylphosphine | 0.162 mmol, 42.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.108 mmol, 75.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-(2-((triethylsilyl)ethynyl)pyridin-3-yl)acetate | C(C)[Si](CC)(CC)C#CC1=NC=CC=C1CC(=O)OC | C16H23NO2Si
